US08236824B2
3-Isopropoxy-5-(2-thiophen-3-yl-ethoxy)-benzoic acid (0.672 mmol) is dissolved in thionylchloride (1.2 ml) and heated to 70° C. for 1 hour. After cooling to room temperature, the solvent is removed in vacuo. The residue is dissolved in dichloromethane (1.2 ml) and ethyldiisopropyl-amine (167 μl) is added and 1-benzyl-1H-pyrazol-3-ylamine (1.2 eq) is added. The solution is stirred 21 hours at room temperature. The reaction solution is extracted with water. The organic layer is washed with brine and dried over MgSO4 and the solvent is removed in vacuo. N-(1-Benzyl-1H-pyrazol-3-yl)-3-isopropoxy-5-(2-thiophen-3-yl-ethoxy)-benzamide is isolated after column chromatography (heptan /ethylacetate) as yellow oil in a yield of 45%; HPLC (method B): 3.63 min; LC-MS (method B): 2.74 min, 462.2 (MH+); 1H-NMR (DMSO-d5, 500 MHz): δ [ppm] 10.78 (s, 1), 7.79 (d, 1H, J=2.2 Hz), 7.468 (dd, 1H, J=3 Hz, J=4.9 Hz), 7.359-7.269 (m, 4H), 7.245-7228 (m, 2H), 7.174-7.139 (m, 2H), 7.11 (dd, 1H, J=1.1 Hz, J=4.9 Hz), 6.648 (d, 1H, J=2.2 Hz), 5.256 (s, 2H), 4.678 (sep, 1H, J=6 Hz), 4.223 (t, 2H, J=6.9 Hz), 3.049 (t, 2H, J=6.9 Hz), 1.262 (d, 6H, J=6 Hz).

reactant | 3-Isopropoxy-5-(2-thiophen-3-yl-ethoxy)-benzoic acid | 0.672 mmol | C(C)(C)OC=1C=C(C(=O)O)C=C(C1)OCCC1=CSC=C1 | C16H18O4S
reactant | 1-benzyl-1H-pyrazol-3-ylamine | 1.2 eq | C(C1=CC=CC=C1)N1N=C(C=C1)N | C10H11N3
solvent | thionylchloride | 1.2 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(1-Benzyl-1H-pyrazol-3-yl)-3-isopropoxy-5-(2-thiophen-3-yl-ethoxy)-benzamide | yield of 45% | C(C1=CC=CC=C1)N1N=C(C=C1)NC(C1=CC(=CC(=C1)OCCC1=CSC=C1)OC(C)C)=O | C26H27N3O3S
